US08012986B2
3′-(6′-Methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl)-biphenyl-3-sulfonic acid tert-butylamide
The title compound was prepared from 6′-(3-bromo-phenyl)-2′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl (example B.12) (0.197 g, 0.5 mmol) and commercially available 3-(tert-butylsulfamoyl)-benzeneboronic acid (0.142 g, 0.55 mmol) according to the general procedure III. Obtained as a white foam (0.245 g, 93%). MS (ISP) 526.7 [(M+H)+].

reactant | 6′-(3-bromo-phenyl)-2′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl | 0.5 mmol, 0.197 g | BrC=1C=C(C=CC1)C1=CC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C18H12BrF3N2
reactant | 3-(tert-butylsulfamoyl)-benzeneboronic acid | 0.55 mmol, 0.142 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3′-(6′-Methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl)-biphenyl-3-sulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=C1)C=1C=NC(=CC1)C(F)(F)F)C | C28H26F3N3O2S
